* C:\Users\wmarkowski\dev-test\sources\various\sandbox\atx-bench-power-supply\absolut_value_circuit.asc
V1 N001 0 SINE(0 12 50)
R3 N003 N002 5k
V2 +12V 0 12
XU2 N007 N002 +12V 0 N003 AD820
XU1 N006 N004 +12V 0 N005 AD820
R6 N005 N004 10k
R7 N006 N003 5k
R5 N001 N004 10k
R1 N007 N001 5k
.tran 0.1
.lib ADI1.lib
.backanno
.end
