* MCR100-6 SCR A G K MCE 7-17-95
*MCE MCR100-6 400V 800mA pkg:TO-226AA
.SUBCKT MCR100-6 1 2 3
QP 6 4 1 POUT OFF
QN 4 6 5 NOUT OFF
RF 6 4 80MEG
RR 1 4 53.3MEG
RGK 6 5 6.25K
RG 2 6 9.17
RK 3 5 81.3M
DF 6 4 ZF
DR 1 4 ZR
DGK 6 5 ZGK
.MODEL ZF D (IS=.32F IBV=1U BV=400 RS=12MEG)
.MODEL ZR D (IS=.32F IBV=1U BV=533)
.MODEL ZGK D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325 CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR100-6